US07109219B2
5-(2-Aminopyridin-4-ylamino)indole-1-carboxylic acid phenylamide
2-Amino-4-chloropyridine (500 mg, 0.446 mmol) was dissolved in N-methylpyrrolidone (5.0 ml); pyridine hydrochloride (750 mg) and 5-aminoindole-1-carboxylic acid phenylamide (408 mg, 1.62 mmol) was added thereto; the reaction mixture was stirred at 100° C. for 6.5 hours. After cooling to room temperature, the reaction mixture was partitioned between saturated aqueous solution of sodium hydrogencarbonate and ethyl acetate; the organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia NH, hexane-ethyl acetate-methanol system). The obtained pale yellow oil was solidified with diethyl ether; and the crystals were suspended in diethyl ether, filtered off, washed with diethyl ether, and dried to yield the title compound (188 mg, 0.464 mmol, 35.7%) as pale yellow crystals.

reactant | 2-Amino-4-chloropyridine | 0.446 mmol, 500 mg | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | pyridine hydrochloride | 750 mg | Cl.N1=CC=CC=C1
reactant | 5-aminoindole-1-carboxylic acid phenylamide | 1.62 mmol, 408 mg | C1(=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)N | C15H13N3O
solvent | N-methylpyrrolidone | 5.0 ml | CN1C(CCC1)=O | C5H9NO
product | 5-(2-Aminopyridin-4-ylamino)indole-1-carboxylic acid phenylamide | 0.464 mmol, 188 mg, 35.7% | C1(=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)NC1=CC(=NC=C1)N | C20H17N5O
